### PR TITLE
fix: `match` discriminant congruence in `simp`

### LINKED ISSUE #8707: `simp` fails to rewrite in match discriminants with hypotheses
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`simp` fails to rewrite discriminants of `match` expressions if they have hypotheses associated to them.

### Context

I worked around this problem in #8210 and this came up again in https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/.E2.9C.94.20Telling.20split.20where.20to.20split/with/523303521

### Steps to Reproduce

```lean
example (h : x = 1) :
    (match _ : x with
    | 0 => 0
    | _ + 1 => 0) = 0 := by
  simp [h]
```

**Expected behavior:** `simp` should be able to rewrite the discriminant and solve the goal.

**Actual behavior:** `simp` fails to rewrite the discriminant.

### Versions

Lean 4.21.0-nightly-2025-06-09

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR improves the `match` discriminant congruence in `simp` by adding a new realizable constant `matcher.discr_congr` and using it in `simp`. This is a congruence principle for `match` discriminants that can handle discriminants with equations and proof discriminants. After a stage0 update, this can be used to remove some of the hacks that were introduced in #8210.

Closes #8707

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ✅ Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) has successfully built against this PR. (2025-06-19 17:06:39) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15762347668)
- 🟡 Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) build against this PR was cancelled. (2025-06-19 22:43:57) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15767224894)
- 💥 Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) build failed against this PR. (2025-06-19 23:38:08) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15767582217)
- 💥 Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) build failed against this PR. (2025-06-20 06:52:29) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15773031574)
- 💥 Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) build failed against this PR. (2025-06-20 08:54:27) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15774489214)
- 💥 Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) build failed against this PR. (2025-06-20 10:16:36) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15775993565)
- 💥 Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) build failed against this PR. (2025-06-20 12:56:34) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15778759389)
- 💥 Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) build failed against this PR. (2025-06-20 14:05:07) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15779999200)
- ✅ Mathlib branch [lean-pr-testing-8884](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8884) has successfully built against this PR. (2025-06-20 15:41:44) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15782460954)

**Comment by Rob23oba** [comment]
changelog-language

File: src/Lean/Meta/Match/MatchEqsExt.lean [hunk 1]
```diff
@@ -47,4 +47,22 @@ Returns `true` if `declName` is the name of a `match` equational theorem.
...
+  registerEnvExtension (pure {}) (asyncMode := .local)
+
+def registerDiscrCongr (matchDeclName : Name) (congrName : Name) (mask : Array Bool) : CoreM Unit := do
+  modifyEnv fun env => matchDiscrCongrExt.modifyState env fun map =>
+    map.insert matchDeclName (congrName, mask)
+
+/-
+Forward definition. We want to use `getDiscrCongr` in the simplifier but `getDiscrCongr` is
+defined in `Lean.Meta.Match.MatchEqns` which depends on the simplifier.
+-/
```
Comment (nomeata) [inline src/Lean/Meta/Match/MatchEqsExt.lean]: Does your congr lemma generation depend on simp? If not, maybe give it it's own module to avoid this?

File: src/Lean/Meta/Match/MatchEqs.lean [hunk 2]
```diff
@@ -924,24 +923,212 @@ where go baseName := withConfig (fun c => { c with etaStruct := .none }) do
...
+/--
+Generates the discriminant congruence principle for a matcher and returns its name and a mask.
+
+The first arguments of the congruence principle are exactly the same as the parameters of the
+`match` application. The remaining arguments are (alternating) right-hand side discriminants and
+equalities relating them with left-hand side discriminants (i.e. `(a' : α) (ha : a = a') ...`).
+The result is a heterogenous equality of the match applications.
+
+However, not all discriminants have equalities associated to them, in particular proofs and values
+with (non-proof) forward dependencies. Which of the discriminants that is, is recorded in the
```
Comment (nomeata) [inline src/Lean/Meta/Match/MatchEqs.lean]: Why not those with forward dependencies? Is it because then some of these equalities become heterogenous, and this isn't useful with simp?

If you'd include them, would the combination of your construction with normal equation theorems subsumed my congr equational theorems?

Comment (Rob23oba) [reply src/Lean/Meta/Match/MatchEqs.lean]: For now I just wanted to use this for `simp` and only having equalities makes the construction a bit simpler.

File: src/Lean/Meta/Match/MatchEqsExt.lean (hunk 1 above)
Comment (Rob23oba) [reply src/Lean/Meta/Match/MatchEqsExt.lean]: Hmm yeah, I guess that would be reasonable.

File: src/Lean/Meta/Match/MatchEqs.lean (hunk 2 above)
Comment (Rob23oba) [reply src/Lean/Meta/Match/MatchEqs.lean]: > If you'd include them, would the combination of your construction with normal equation theorems subsumed my congr equational theorems?

Probably, but the proof term and the right-hand side would definitely get more complex.

File: tests/lean/run/simpMatchDiscr.lean [hunk 3]
```diff
@@ -43,4 +55,82 @@ def bla (b : Bool) (f g : α → β) (a : α) : β :=
...
+  unfold test2
+  dsimp only [id_eq]
+
+structure Test (n : Nat) where
+  value : Nat
+
+/-!
+`simp` doesn't apply congruence if the motive depends on the discriminant.
+-/
+
```
Comment (nomeata) [inline tests/lean/run/simpMatchDiscr.lean:134]: If this isn't supporting dependent motives anyways, then why bother with HEq  in the discr congr lemmas? (Maybe I'm missing something here)

Comment (nomeata) [reply tests/lean/run/simpMatchDiscr.lean:134]: Ah, it's the case that the motive may depend on some discrs, and these won't be rewritten, but others still are, right?

Comment (Rob23oba) [reply tests/lean/run/simpMatchDiscr.lean:134]: Note the wording: "if the motive depends on *the* discriminant". In other words, it will still rewrite in discriminants that aren't in the motive even if others are. You're right though, I should probably clarify this with an additional test.

File: src/Lean/Meta/Match/MatchEqs.lean (hunk 2 above)
Comment (nomeata) [reply src/Lean/Meta/Match/MatchEqs.lean]: Hmm, I'd expect that to then be just HEq.trans of the two lemmas. But since they are not included anyways, not so important.

File: src/Lean/Meta/Tactic/Simp/Rewrite.lean [hunk 4]
```diff
@@ -330,32 +336,46 @@ def simpMatchDiscrs? (info : MatcherInfo) (e : Expr) : SimpM (Option Result) :=
...
-      let argNew ← dsimp arg
-      if argNew != arg then modified := true
-      r ← mkCongrFun r argNew
+  let mut refl := true
+  while h : i < mask.size do
+    if mask[i] then
+      let discr := args[info.getFirstDiscrPos + i]!
+      if motive.hasLooseBVar (info.numDiscrs - i - 1) then
+        -- motive depends on discriminant
+        prf := mkApp2 prf discr (← mkEqRefl discr)
```
Comment (nomeata) [inline src/Lean/Meta/Tactic/Simp/Rewrite.lean]: Would it be reasonable and useful to at least `dsimp` here? Would that match what simp does in other cases of dependencies?

File: tests/lean/run/simpMatchDiscr.lean [hunk 5]
```diff
@@ -1,3 +1,9 @@
+/-!
```
Comment (nomeata) [inline tests/lean/run/simpMatchDiscr.lean:1]: I'd suggest to include the discr congr theorems in the test (`#guard_msgs in #print sig`). This is helpful for the next person touching the code to see if they only refactored or actually made a change, and reviewers see the diffs.

File: src/Lean/Meta/Tactic/Simp/Rewrite.lean (hunk 4 above)
Comment (Rob23oba) [reply src/Lean/Meta/Tactic/Simp/Rewrite.lean]: Yes that was what was done before iirc. The new setup makes this is a bit more awkward though since we compute the rhs using `inferType`. I see how it could be possible but I'd definitely need to refactor this code quite a bit.

File: src/Lean/Meta/Match/DiscrCongr.lean [hunk 6]
```diff
@@ -0,0 +1,245 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Robin Arnez
+-/
+prelude
+import Lean.Meta.Tactic.Induction
+import Lean.Meta.Tactic.Refl
+
+namespace Lean.Meta.Match
+
+/- We generate the equations and splitter on demand, and do not save them on .olean files. -/
```
Comment (nomeata) [inline src/Lean/Meta/Match/DiscrCongr.lean]:
```suggestion
/- We generate the discr congruences on demand, like equations splitters, and do not save them on .olean files. -/
```

File: src/Lean/Meta/Match/MatchEqs.lean [hunk 7]
```diff
@@ -864,6 +864,7 @@ def genMatchCongrEqns (matchDeclName : Name) : MetaM (Array Name) := do
   realizeConst matchDeclName firstEqnName (go baseName)
   return matchCongrEqnsExt.findStateAsync (← getEnv) firstEqnName |>.find! matchDeclName
 where go baseName := withConfig (fun c => { c with etaStruct := .none }) do
+  withConfig (fun c => { c with etaStruct := .none }) do
```
Comment (nomeata) [inline src/Lean/Meta/Match/MatchEqs.lean]:
```suggestion
```

File: src/Lean/Meta/Match/DiscrCongr.lean [hunk 8]
```diff
@@ -0,0 +1,237 @@
...
+
+private def isDiscrCongrName? (env : Environment) (n : Name) : Option Name := do
+  let .str n s := n | none
+  let mut n := n; let mut s := s
+  if "_aux_".isPrefixOf s && (s.drop "_aux_".length).isNat then
+    let .str n' s' := n | none
+    n := n'; s := s'
+  n ← privateToUserName? n
+  guard <| s == "discr_congr" && isMatcherCore env n
+  return n
```
Comment (nomeata) [inline src/Lean/Meta/Match/DiscrCongr.lean:220]: Will this work if the matcher itself is private? (Is that ever the case?)

File: src/Lean/Meta/Match/DiscrCongr.lean [hunk 9]
```diff
@@ -0,0 +1,237 @@
...
+  -- see below
+  registerEnvExtension (pure {}) (asyncMode := .local)
+
+def registerDiscrCongr (matchDeclName : Name) (congrName : Name) (mask : Array Bool) : CoreM Unit := do
+  modifyEnv fun env => discrCongrExt.modifyState env fun map =>
+    map.insert matchDeclName (congrName, mask)
+
+/--
+Returns an expression of type `goal` if `goal` is of the form `∀ (b : α) (h : a = b) ..., P b ...`
+and `hyp : P a ...`. `neqs` represents the amount of equalities to substitute.
```
Comment (nomeata) [inline src/Lean/Meta/Match/DiscrCongr.lean:27]:
```suggestion
and `hyp : P a ...`. `neqs` represents the number of equalities to substitute.
```

File: src/Lean/Meta/Match/DiscrCongr.lean [hunk 10]
```diff
@@ -0,0 +1,237 @@
...
+        withLocalDecl nm bi t fun var => do
+          let eqT := mkApp3 (.const ``Eq [← getLevel t]) t discrs[i]! var
+          withLocalDeclD `heq eqT fun eq => do
+            go b (i + 1) (acc.push (var, eq))
+    else
+      k acc
+  termination_by ndiscrs - i
+
+/--
+Compute right-hand side discriminants. Rewritten proofs are put into auxiliary theorems.
```
Comment (nomeata) [inline src/Lean/Meta/Match/DiscrCongr.lean:62]: Could this be simplified if you don’t worry about abstracting proofs out here, and then use `abstractNestedProofs` on the final theorem statement before adding it to the environment?

File: src/Lean/Meta/Tactic/Simp/Rewrite.lean [hunk 11]
```diff
@@ -322,6 +323,12 @@ def simpArith (e : Expr) : SimpM Step := do
     return .visit { expr := e', proof? := h }
   return .continue
 
+private partial def lamBody : Nat → Expr → Expr
```
Comment (nomeata) [inline src/Lean/Meta/Tactic/Simp/Rewrite.lean:331]: Since it’s untypical to work with open terms, I’d say this deserves 
```suggestion
/-- The body of a n-fold nested lambda (reducing lets along the way), as an *open* term -/
private partial def lamBody : Nat → Expr → Expr
```

Comment (nomeata) [reply src/Lean/Meta/Tactic/Simp/Rewrite.lean:331]: But actually you are using the result only to run `hasLooseBVar` on it. So I'd be less uncomfortable with this code if it were
```suggestion
/-- Given a matcher motive of n discriminants, returns the bitmask of which discrs the motive actually depends on -.
private partial def motive : Nat → Expr → Array Bool
```
for clarity.

File: src/Lean/Meta/Match/DiscrCongr.lean (hunk 8 above)
Comment (Rob23oba) [reply src/Lean/Meta/Match/DiscrCongr.lean:220]: idk I basically copied this from `MatchEqs.lean`. I'll try to see what happens

**Comment by Rob23oba** [comment]
> How much easier would it be if the whole discriminant congruence would be tailored to motives with the given bitmask (so a separate congruence for each dependency pattern of the motive)?

We would save the `eq_of_heq`, yes, but at the same time we'd probably have more work constructing the new motive on the `simp` side. One thing that would perhaps be reasonable though is adding a fully non-dependent one (since that's the usual case anyways and we almost calculate it with `lamBody` anyways!).

File: src/Lean/Meta/Tactic/Simp/Rewrite.lean (hunk 11 above)
Comment (Rob23oba) [reply src/Lean/Meta/Tactic/Simp/Rewrite.lean:331]: I don't want to allocate an array though; would this work:
Given the expression `e`, returns an open term `e'` (with up to `n` loose bound variables) such that `fun a1 a2 .. an => e'` is equivalent to `e`. In particular, the `i`th loose bound variable of `e'` corresponds to the `n - i - 1`th parameter of `e` (counted from `0`).

File: src/Lean/Meta/Match/DiscrCongr.lean (hunk 8 above)
Comment (Rob23oba) [reply src/Lean/Meta/Match/DiscrCongr.lean:220]: So yeah you can have a private matcher if the declaration it's in is private and in that case the declarations are inaccessible to the user but can be still used just fine (probably some `_private.abc.0._private.abc.0.xyz.match_1.discr_congr` weirdness). Same with splitter, equation lemmas and generalized equation lemmas.

Comment (nomeata) [reply src/Lean/Meta/Match/DiscrCongr.lean:220]: Ok, so no regression here. If you don’t want to fix that now, maybe leave a comment
```
-- matchers in private declarations are private, then this reserved name action will not work. Minor issue.
```
in all three places. The ReservedNameAction is really mostly for debugging here.

(I think I ran into this earlier when working on the equational theorems for functions and it was somewhat hairy.)

File: src/Lean/Meta/Tactic/Simp/Rewrite.lean (hunk 11 above)
Comment (nomeata) [reply src/Lean/Meta/Tactic/Simp/Rewrite.lean:331]: > I don't want to allocate an array though; would this work:

Hmm, is this maybe premature optimization? I think the code complexity improvement is notable (reading code juggling open terms is annoying).

You even know ahead of time how large the array is you are allocating… my gut feeling is that this is not a significant cost.

**Comment by nomeata** [comment]
> but at the same time we'd probably have more work constructing the new motive on the simp side. 

Any chance that this could be done using `isDefEq` easily?

**Comment by Rob23oba** [comment]
Heh `isDefEq` isn't zero work either though. I'll do nondependent motives since that's pretty simple to support but generating discriminant congruence lemmas per motive bitmask feels like overkill.

**Comment by nomeata** [comment]
> Heh isDefEq isn't zero work either though. I'll do nondependent motives since that's pretty simple to support but generating discriminant congruence lemmas per motive bitmask feels like overkill.

Are you referring to code complexity or run-time work? (Unifying `actual_motive discr1 discr3 =?= ?motive_mvar discr1 discr3` should be quick enough)

But before we talk about cost; is there anything gained in terms of expressive power (i.e. how good `simp` can rewrite stuff) from doing per-motive-shape congruence lemmas? (If not, then I wouldn’t even special-case the non-dependent motive, to avoid pushing the code complexity budget even more.)

**Comment by Rob23oba** [comment]
I think per-motive-shape only helps to get rid of the `eq_of_heq` and nothing much else

File: src/Lean/Meta/Match/DiscrCongr.lean (hunk 10 above)
Comment (nomeata) [reply src/Lean/Meta/Match/DiscrCongr.lean:62]: Did you resolve this by accident?

File: src/Lean/Meta/Tactic/Simp/Rewrite.lean (hunk 11 above)
Comment (Rob23oba) [reply src/Lean/Meta/Tactic/Simp/Rewrite.lean:331]: > premature optimization

You caught me lol :-) Honestly, I'd do it if the compiler could optimize it away.

**Comment by Rob23oba** [comment]
Okay now we have this weird mathlib failure:
```
Error: error: Mathlib/SetTheory/Ordinal/Veblen.lean:201:8: (kernel) unknown constant '_private.Mathlib.SetTheory.Ordinal.Veblen.0.Ordinal.cmp_veblenWith.match_1.splitter'
Error: error: Mathlib/SetTheory/Ordinal/Veblen.lean:211:8: (kernel) unknown constant '_private.Mathlib.SetTheory.Ordinal.Veblen.0.Ordinal.cmp_veblenWith.match_1.splitter'
Error: error: Mathlib/SetTheory/Ordinal/Veblen.lean:221:8: (kernel) unknown constant '_private.Mathlib.SetTheory.Ordinal.Veblen.0.Ordinal.cmp_veblenWith.match_1.splitter'
```
I'm confused; I didn't touch `MatchEqs` and splitter generation, did I..? Hmm I'll try to see whether I can reproduce this in core.

**Comment by Rob23oba** [comment]
(Note: depends on leanprover-community/mathlib4#26227)
